Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
___: Central power tunneled line placement

 
History of Present Illness:
___ woman with history of an autoimmune disease NOS 
(since ___ workup in progress), unprovoked DVT RLE (after 
playing  football; ___, chronic constipation s/p subtotal 
colectomy in ___, now presents with chronic diarrhea 
(since colectomy, ___, s/p two PICC placements (first ___, 
second ___ for IV hydration c/b PICC associated DVTs. Pt 
now presents with redness, swelling and tenderness around her 
PICC site in right arm since ___ with clear to possibly 
purulent drainage under the tegaderm, and fever to 100.3 
(measured at PCP's).   

Went to PCP who referred her here for eval where the low grade 
fever was discovered. Pt states she was having L calf tenderness 
that started one month prior to admission. Had a questionable 
LLE DVT ultrasound a few weeks ago in ___. Denies any 
CP/SOB/palpitations. Referred to ___.  

In the ___:
----------
- Initial VS were 98.8 106 104/70 18 100% RA  
- Exam notable for RUE erythema around ___ site. Hot to touch. 
Tender  
- Labs showed normal CBC, Chem7, Lactate 1.4  
- Imaging showed BUE U/S with nonocclusive thrombus in the right 
subclavian and a right brachial vein adjacent to the PICC. No 
DVT on the left. Negative LLE U/S.  
- Blood cultures were obtained.  
- PICC was removed, wound culture was obtained from IV catheter. 
 
- Received IV Ampicillin-Sulbactam 3 g ___ 23:13)
- Decision was made to admit to medicine for further management. 
 
- Transfer VS were 98.0 73 115/74 16 100% RA  

On arrival to the floor:
Pt reports tenderness at RUE insertion site but greatly improved 
and improved redness/swelling. She has continued but improved 
pruritis. She denies any sick contacts or recent travel. She 
denies any chills, runny nose, sore throat, SOB, abdominal pain, 
vomiting, change in baseline nausea, changes in her stools (she 
has ___ loose watery BMs/day at baseline), bloody BMs, dysuria, 
hematuria, other rashes, weakness or falls. 

 
Past Medical History:
 1. Tension headaches.  
 2. Slow transient constipation.  
 3. Depression.  
 4. Fatigue.  
 5. History of bilateral ovarian cysts.  
 6. History of drug and alcohol abuse.  
 7. Anxiety.  
 8. Depression.  
 9. History of gastritis and peptic ulcer disease.  
 10. Rheumatologic manifestations: Musculoskeletal pain,faint 
transient malar rash. Lab work up negative for ___, dsDNA, Ro, 
La, Sm, RNP, normal urinalysis, normal CBC, BUN and creatinine, 
and LFTs.  
 Rheumatologist has ruled out SLE.  
 11. Inflammatory arthropathy - polyarticular joint pain since  
 ___, negative work up.  
 12. Chronic fatigue syndrome  
 13. Vitamin D deficiency  
 14. Hypothyroidism  
 15. Hx of DVT - at the age of ___ (told it was when she was  
 playing soccer?)  
 16. GERD  
 17. Neuropathy  
 
 
Social History:
___
Family History:
 Mother with no cancer  
 Father- unsure  
 2 brothers and sister are alive and well  
 PGM with breast cancer, DM, CVD, HTN  
 MGM - breast cancer, DM, HLD, HTN  
 No history of blood clots or bleeding disorders  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VS: 97.9 ___ 16 99% RA Wt: 60.1 kg  
 GENERAL: WDWN female in NAD  
 HEENT: anicteric sclera, PERRL, EOMI, MOM, OP clear, no ulcers  

 NECK: supple, nontender, no LAD, no JVD  
 CARDIAC: RRR, normal S1S2, no M/R/G, ___ in place  
 LUNG: NLB on RA, CTAB  
 ABDOMEN: soft, NT ND, NABS  
 EXTREMITIES: WWP, no C/C/E  
 PULSES: 2+  
 NEURO: ___, CN II-XII intact, SILT, ___ strength BUE/BLE  
 SKIN: Warm, dry, RUE prutitic maculopapular eruption at ___ 
site, no pain along ___ course or streaking.  

DISCHARGE PHYSICAL EXAM:  
VS: 98.0, 93/57, 68, 18, 100 RA 
GENERAL: WDWN female in NAD  
HEENT: anicteric sclera, PERRL, EOMI, MOM, OP clear, no ulcers  
NECK: supple, nontender, no LAD, no JVD  
CARDIAC: RRR, normal S1S2, no M/R/G, ___ in place  
LUNG: NLB on RA, CTAB  
ABDOMEN: soft, NT ND, NABS  
EXTREMITIES: WWP, no C/C/E
NEURO: ___, CN II-XII intact, SILT, ___ strength BUE/BLE  
SKIN: Warm, dry, RUE eruption is much improved. New tunneled 
line in place, site is c/d/i.
 
Pertinent Results:
SELECTED LABS:
___ 08:15PM BLOOD WBC-8.0 RBC-4.34 Hgb-12.3 Hct-38.6 MCV-89 
MCH-28.3 MCHC-31.9* RDW-12.4 RDWSD-40.6 Plt ___
___ 06:21AM BLOOD WBC-5.5 RBC-3.79* Hgb-10.8* Hct-34.0 
MCV-90 MCH-28.5 MCHC-31.8* RDW-12.6 RDWSD-41.2 Plt ___
___ 08:15PM BLOOD Neuts-53.9 ___ Monos-5.8 Eos-2.0 
Baso-0.6 Im ___ AbsNeut-4.30 AbsLymp-2.96 AbsMono-0.46 
AbsEos-0.16 AbsBaso-0.05

___ 12:58PM BLOOD LMWH-0.67
___ 08:15PM BLOOD Glucose-91 UreaN-8 Creat-0.6 Na-140 K-4.4 
Cl-103 HCO3-27 AnGap-14

___ 06:01AM BLOOD Iron-155
___ 05:45AM BLOOD Calcium-9.1 Phos-4.4 Mg-2.2
___ 06:01AM BLOOD calTIBC-337 Ferritn-39 TRF-259
___ 05:45AM BLOOD HCG-<5
___ 08:26PM BLOOD Lactate-1.___ year-old woman with history of autoimmune disease (workup 
ongoing), unprovoked DVT RLE ___, after playing football, 
treated with Coumadin), chronic constipation s/p subtotal 
colectomy in ___ now with chronic diarrhea, s/p two PICC 
placements (first ___, second ___ for IV hydration c/b 
PICC associated DVT. She now presents with PICC associated DVT.

# DVT: She had PICC-associated DVT on enoxaparin. Bilateral 
upper extremity US indicated nonocclusive thrombus in the right 
subclavian and a right brachial vein adjacent to the PICC line; 
no remaining DVT seen on LUE. PICC line was removed. A power 
central tunneled line was placed for future IV access, though 
given her history she remains at risk for ongoing thrombi 
despite anticoagulation. Lovenox treatment is continued at 60mg 
BID as anti-Xa activity level was therapeutic. 

# Fever: Resolved. She had low grade fever prior to admission 
(afebrile since), no associated leukocytosis. Blood and PICC 
cultures with no growth to date. Chronic low grade fevers 
(associated with her autoimmune disease) or DVT could be explain 
pt's low grade fever at PCP's prior to admission. Pt with long 
standing diarrhea after colectomy ___ does not appear to 
have worsened and no abdominal tenderness. 

# Prutitic eruption: Intermittently adhesive induced, though not 
consistently. Significantly improved since admission with 
topical Hydrocortisone Cream 0.5% and Sarna.

CHRONIC ISSUES:  
--------------- 
# POTS:   
Stable, has ___ of hearts monitor. No syncope or falls, she 
transfers carefully at baseline.

# Autoimmune disease NOS: 
Patient endorses hair loss, weight loss, oral ulcers, rash, 
joint pain, chronic fatigue as a part of her syndrome. Followed 
by multidisciplinary team. Unclear etiology. Continued 
Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN mouth pain. 
Continued home gabapentin, cyclobenzaprine, and orabase.

# Chronic diarrhea:
Symptoms appear to be stable, no concern for infectious diarrhea 
at this time. Continued loperamide, cholestyramine, and 
multivitamin. She received baseline 2L NS/day while inpatient.

# Depression: Stable. Continued Venlafaxine, buspirone. 
Continued lorazepam PRN for anxiety.

# GERD: Well controlled, continued omeprazole.

# Insomnia: Continued TraZODone 100 mg PO QHS:PRN insomnia  

Transitional Issues:
--------------------
# Autoimmune disease: Continue follow up per outpatient 
providers
# Hypercoagulability: Please follow up with Hemostasis & 
___ (appointment details will be sent to patient)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. busPIRone 30 mg oral BID 
2. Cholestyramine 4 gm PO TID:PRN diarrhea 
3. LOPERamide 4 mg PO BID 
4. Multivitamins 1 TAB PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. TraZODone 100 mg PO QHS:PRN insomnia 
7. Melatin (melatonin) 4 mg oral QHS:PRN insomnia 
8. sodium chloride 0.9 % 0.9 % intravenous DAILY:PRN nausea and 
vomiting 
9. Enoxaparin Sodium 60 mg SC Q12H 
10. Prochlorperazine ___ mg PO Q8H:PRN nausea 
11. Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN mouth pain 

12. Venlafaxine 150 mg PO BID 
13. Benzocaine 20% Spray 1 SPRY TP ONCE 
14. Gabapentin 300 mg PO QPM 
15. DiphenhydrAMINE 25 mg PO QHS:PRN itch 
16. LORazepam 0.5 mg PO BID:PRN anxiety 
17. Oralone (triamcinolone acetonide) 0.1 % dental TID W/MEALS 
18. Orabase w/ Benzocaine Paste 1 Appl TP TID:PRN pain 
19. Gabapentin 600 mg PO QAM 
20. Gabapentin 300 mg PO QHS 
21. Cyclobenzaprine 5 mg PO HS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth Every six hours 
Disp #*30 Tablet Refills:*0 
2.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
Once a day Disp #*30 Tablet Refills:*0 
3.  Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN  Relief of the 
inflammatory dermatoses  
RX *hydrocortisone 0.5 % Apply to affected area Three times a 
day Refills:*0 
4.  Sarna Lotion 1 Appl TP QID:PRN itching 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 % Apply to 
affected area Four times a day Refills:*0 
5.  Benzocaine 20% Spray 1 SPRY TP ONCE  
6.  busPIRone 30 mg oral BID  
7.  Cholestyramine 4 gm PO TID:PRN diarrhea  
8.  Cyclobenzaprine 5 mg PO HS  
9.  DiphenhydrAMINE 25 mg PO QHS:PRN itch  
10.  Enoxaparin Sodium 60 mg SC Q12H  
11.  Gabapentin 600 mg PO QAM  
12.  Gabapentin 300 mg PO QPM  
13.  Gabapentin 300 mg PO QHS  
14.  LOPERamide 4 mg PO BID  
15.  LORazepam 0.5 mg PO BID:PRN anxiety  
16.  Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN mouth 
pain  
17.  Melatin (melatonin) 4 mg oral QHS:PRN insomnia  
18.  Multivitamins 1 TAB PO DAILY  
19.  Omeprazole 40 mg PO DAILY  
20.  Orabase w/ Benzocaine Paste 1 Appl TP TID:PRN pain  
21.  Oralone (triamcinolone acetonide) 0.1 % dental TID W/MEALS  

22.  Prochlorperazine ___ mg PO Q8H:PRN nausea  
23.  sodium chloride 0.9 % 0.9 % intravenous DAILY:PRN nausea 
and vomiting  
24.  TraZODone 100 mg PO QHS:PRN insomnia  
25.  Venlafaxine 150 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
------------------
Deep venous thrombosis of right upper extremity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Hello Ms. ___,

You were admitted to the hospital on ___ due to low grade 
fever as well as redness, swelling, and tenderness that appeared 
around your PICC line site in the right arm since ___, 
___. 

In the hospital we did an ultrasound examination on the veins of 
your upper extremities and discovered clots in two veins in your 
right arm, adjacent to the PICC line. 

Therefore, we removed the PICC line and placed a tunneled line 
instead. The tunneled line is advantageous as it is placed in a 
wider vein that connects directly to the heart, and thereby 
reduces the risk of blood clot formation. You should continue 
your anticoagulant which will also help treat and prevent blood 
clots. You will continue your intravenous hydration via this 
tunneled line. 

Sincerely,
Your ___ Team 
 
Followup Instructions:
___